US08865623B2
To a solution of 5-bromo-2-ethylphenyllead triacetate (20.00 g, 35.2 mmol) (described in WO08/071,405) in chloroform (100 ml) is added cyclohexane-1,3-dione (3.94 g, 35.2 mmol) and 4-dimethylaminopyridine (22.36 g, 176 mmol). After stirring the reaction at room temperature for 5 minutes toluene (50 ml) is added and the solution is heated at 80° C. for 4 hours. After cooling to room temperature the mixture is allowed to stand overnight, followed by treatment with 2M aqueous hydrochloric acid. Following filtration of the precipitate the biphasic solution is separated, and the aqueous phase is extracted again with dichloromethane (×2). Organic fractions are combined then evaporated under reduced pressure to yield a crude product which is purified by flash column chromatography (10% ethyl acetate/hexane to 70% ethyl acetate/hexane eluant) to afford 2-(5-bromo-2-ethylphenyl)cyclohexane-1,3-dione as a white solid.

reactant | 5-bromo-2-ethylphenyllead triacetate | 35.2 mmol, 20.00 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].BrC=1C=CC(=C(C1)[Pb+3])CC
reactant | cyclohexane-1,3-dione | 35.2 mmol, 3.94 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | 4-dimethylaminopyridine | 176 mmol, 22.36 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-(5-bromo-2-ethylphenyl)cyclohexane-1,3-dione | BrC=1C=CC(=C(C1)C1C(CCCC1=O)=O)CC | C14H15BrO2
